US07507742B2
1-(hydroxymethyl)-cyclobutanecarboxylic acid methyl ester
To a solution of 1,1-cyclobutanedicarboxylic acid dimethyl ester (available from Lancaster Synthesis Ltd, UK) (2.0 g, 11.6 mmol) in tetrahydrofuran (20 ml) at room temperature was added lithium tri-tert-butoxyaluminium hydride (25.5 ml of a 1M solution in tetrahydrofuran, 25.5 mmol) dropwise over 10 minutes. The reaction mixture was heated to gentle reflux for 3 hours, cooled to room temperature and stirred for 18 hours. The resulting suspension was diluted with saturated aqueous ammonium chloride (30 ml) and stirred vigorously for 15 minutes before filtering. The solid was washed with diethyl ether (50 ml), the organic layer separated and the aqueous layer extracted with diethyl ether (50 ml). The combined organic extracts were dried over magnesium sulphate, filtered and evaporated in vacuo to give the title compound as a colourless oil (1.8 g).

reactant | 1,1-cyclobutanedicarboxylic acid dimethyl ester | 11.6 mmol, 2.0 g | COC(=O)C1(CCC1)C(=O)OC | C8H12O4
reactant | lithium tri-tert-butoxyaluminium hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | 30 ml | [Cl-].[NH4+]
product | 1-(hydroxymethyl)-cyclobutanecarboxylic acid methyl ester | 1.8 g | COC(=O)C1(CCC1)CO | C7H12O3
